US09339503B2
N-pyridin-2-yl-2-[4-(4-oxo-3,4,5,6,7,8-hexahydroquinazolin-2-yl)piperazin-1-yl]-acetamide (“A18”)
2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one (100 mg; 0.51 mmol), N-(2-pyridyl)-2-(piperazin-1-yl)acetamide * 3HCl * 2H2O (279.5 mg; 0.76 mmol) and triethylamine (282.5 μl; 2.04 mmol) are reacted in isoamyl alcohol (2 ml) in accordance with the procedure for Example 9 (reaction time 8 h) and worked up. The crystals obtained are dissolved in acetonitrile and water and freeze-dried; yield: 19 mg (10%), crystals;

reactant | 2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 0.51 mmol, 100 mg | CSC1=NC=2CCCCC2C(N1)=O | C9H12N2OS
reactant | N-(2-pyridyl)-2-(piperazin-1-yl)acetamide | N1=C(C=CC=C1)NC(CN1CCNCC1)=O | C11H16N4O
reactant | triethylamine | 2.04 mmol, 282.5 μl | C(C)N(CC)CC | C6H15N
solvent | isoamyl alcohol | 2 ml | C(CC(C)C)O | C5H12O
solvent | acetonitrile | C(C)#N | C2H3N
product | N-pyridin-2-yl-2-[4-(4-oxo-3,4,5,6,7,8-hexahydroquinazolin-2-yl)piperazin-1-yl]-acetamide | N1=C(C=CC=C1)NC(CN1CCN(CC1)C1=NC=2CCCCC2C(N1)=O)=O | C19H24N6O2
